* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.020000082463978604
Fd1_1 0 s1 V1 1.0000041231989303
Gr1_1_1 0 s1 x1_a1 0 -288396113571.9678
Gr2_re_1_1 0 s1 x2_re_a1 0 2775913554.938351
Gr2_im_1_1 0 s1 x2_im_a1 0 -68329062279.143005
Gr3_re_1_1 0 s1 x3_re_a1 0 0.03378049284376297
Gr3_im_1_1 0 s1 x3_im_a1 0 -0.005131098185097919
Gr4_re_1_1 0 s1 x4_re_a1 0 -0.6190632473338699
Gr4_im_1_1 0 s1 x4_im_a1 0 -0.15908216110372755
Gr5_re_1_1 0 s1 x5_re_a1 0 -0.012298519090328766
Gr5_im_1_1 0 s1 x5_im_a1 0 0.025327059616062533
Gr6_re_1_1 0 s1 x6_re_a1 0 -0.02175258241975275
Gr6_im_1_1 0 s1 x6_im_a1 0 0.003888072882651028
Gr7_re_1_1 0 s1 x7_re_a1 0 -0.001482325899029756
Gr7_im_1_1 0 s1 x7_im_a1 0 -0.012155745900364813
Gr8_1_1 0 s1 x8_a1 0 0.9297429505394309
Gr9_re_1_1 0 s1 x9_re_a1 0 0.08035683710020437
Gr9_im_1_1 0 s1 x9_im_a1 0 0.1029488369338875
Gr10_re_1_1 0 s1 x10_re_a1 0 0.005398858431885518
Gr10_im_1_1 0 s1 x10_im_a1 0 -0.2721923308417774
Gr11_re_1_1 0 s1 x11_re_a1 0 -0.00998585025970206
Gr11_im_1_1 0 s1 x11_im_a1 0 0.00020373000080850856
Gr12_re_1_1 0 s1 x12_re_a1 0 0.0009373164899487583
Gr12_im_1_1 0 s1 x12_im_a1 0 0.0004910477612393924
Gr13_re_1_1 0 s1 x13_re_a1 0 0.001333367516262789
Gr13_im_1_1 0 s1 x13_im_a1 0 -0.0020005224227196867
Gd1_2 0 s1 p2 0 2.4301768997148087e-08
Fd1_2 0 s1 V2 1.2150884498574044e-06
Gr1_1_2 0 s1 x1_a2 0 67281854938.849365
Gr2_re_1_2 0 s1 x2_re_a2 0 -33641129338.25433
Gr2_im_1_2 0 s1 x2_im_a2 0 -62286097196.151184
Gr3_re_1_2 0 s1 x3_re_a2 0 0.023827082931626387
Gr3_im_1_2 0 s1 x3_im_a2 0 -0.018835040599659132
Gr4_re_1_2 0 s1 x4_re_a2 0 -1.1511227600517742
Gr4_im_1_2 0 s1 x4_im_a2 0 0.2405487972469635
Gr5_re_1_2 0 s1 x5_re_a2 0 -0.13366447471798276
Gr5_im_1_2 0 s1 x5_im_a2 0 -0.0005065458725477794
Gr6_re_1_2 0 s1 x6_re_a2 0 -0.19351618294445347
Gr6_im_1_2 0 s1 x6_im_a2 0 -0.05966677742044022
Gr7_re_1_2 0 s1 x7_re_a2 0 -0.14214717043082356
Gr7_im_1_2 0 s1 x7_im_a2 0 -0.16083021582116558
Gr8_1_2 0 s1 x8_a2 0 -0.5882225387117289
Gr9_re_1_2 0 s1 x9_re_a2 0 -0.05038689480504177
Gr9_im_1_2 0 s1 x9_im_a2 0 -0.27912049211065265
Gr10_re_1_2 0 s1 x10_re_a2 0 -0.40799500477920836
Gr10_im_1_2 0 s1 x10_im_a2 0 0.34572003430501164
Gr11_re_1_2 0 s1 x11_re_a2 0 0.03815445826836111
Gr11_im_1_2 0 s1 x11_im_a2 0 -0.06584931885136461
Gr12_re_1_2 0 s1 x12_re_a2 0 -0.00012926881529361263
Gr12_im_1_2 0 s1 x12_im_a2 0 0.020587439892804683
Gr13_re_1_2 0 s1 x13_re_a2 0 -0.03340504806933194
Gr13_im_1_2 0 s1 x13_im_a2 0 -0.004139919204085057
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.3341731991249194e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.770599375719573e-12
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 137795343668.93695
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -137795343668.93695
Rp2_im_im_a1 0 x2_im_a1 5.770599375719573e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 7.772289797630837e-09
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 55052325156.90757
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -55052325156.90757
Rp3_im_im_a1 0 x3_im_a1 7.772289797630837e-09
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 9.268801308404507e-11
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 39523776319.993904
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -39523776319.993904
Rp4_im_im_a1 0 x4_im_a1 9.268801308404507e-11
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.0032343217724231e-09
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 40486361378.48375
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -40486361378.48375
Rp5_im_im_a1 0 x5_im_a1 1.0032343217724231e-09
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 7.240050990707008e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 30879966336.111847
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -30879966336.111847
Rp6_im_im_a1 0 x6_im_a1 7.240050990707008e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 8.750558819007123e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 23451421898.04836
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -23451421898.04836
Rp7_im_im_a1 0 x7_im_a1 8.750558819007123e-10
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 1.0310656065237525e-10
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 5.346497377430703e-10
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 18101021196.292873
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -18101021196.292873
Rp9_im_im_a1 0 x9_im_a1 5.346497377430703e-10
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 3.3937167245994294e-10
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 17106274336.899117
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -17106274336.899117
Rp10_im_im_a1 0 x10_im_a1 3.3937167245994294e-10
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 2.2028939054594066e-09
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 14169004305.257599
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -14169004305.257599
Rp11_im_im_a1 0 x11_im_a1 2.2028939054594066e-09
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 4.316338513909827e-09
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 9271693652.851505
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -9271693652.851505
Rp12_im_im_a1 0 x12_im_a1 4.316338513909827e-09
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 4.395958063674703e-09
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 11067886736.265192
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -11067886736.265192
Rp13_im_im_a1 0 x13_im_a1 4.395958063674703e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 2.4301768997148087e-08
Fd2_1 0 s2 V1 1.2150884498574044e-06
Gr1_2_1 0 s2 x1_a1 0 67281854938.849365
Gr2_re_2_1 0 s2 x2_re_a1 0 -33641129338.25433
Gr2_im_2_1 0 s2 x2_im_a1 0 -62286097196.151184
Gr3_re_2_1 0 s2 x3_re_a1 0 0.023827082931626387
Gr3_im_2_1 0 s2 x3_im_a1 0 -0.018835040599659132
Gr4_re_2_1 0 s2 x4_re_a1 0 -1.1511227600517742
Gr4_im_2_1 0 s2 x4_im_a1 0 0.2405487972469635
Gr5_re_2_1 0 s2 x5_re_a1 0 -0.13366447471798276
Gr5_im_2_1 0 s2 x5_im_a1 0 -0.0005065458725477794
Gr6_re_2_1 0 s2 x6_re_a1 0 -0.19351618294445347
Gr6_im_2_1 0 s2 x6_im_a1 0 -0.05966677742044022
Gr7_re_2_1 0 s2 x7_re_a1 0 -0.14214717043082356
Gr7_im_2_1 0 s2 x7_im_a1 0 -0.16083021582116558
Gr8_2_1 0 s2 x8_a1 0 -0.5882225387117289
Gr9_re_2_1 0 s2 x9_re_a1 0 -0.05038689480504177
Gr9_im_2_1 0 s2 x9_im_a1 0 -0.27912049211065265
Gr10_re_2_1 0 s2 x10_re_a1 0 -0.40799500477920836
Gr10_im_2_1 0 s2 x10_im_a1 0 0.34572003430501164
Gr11_re_2_1 0 s2 x11_re_a1 0 0.03815445826836111
Gr11_im_2_1 0 s2 x11_im_a1 0 -0.06584931885136461
Gr12_re_2_1 0 s2 x12_re_a1 0 -0.00012926881529361263
Gr12_im_2_1 0 s2 x12_im_a1 0 0.020587439892804683
Gr13_re_2_1 0 s2 x13_re_a1 0 -0.03340504806933194
Gr13_im_2_1 0 s2 x13_im_a1 0 -0.004139919204085057
Gd2_2 0 s2 p2 0 0.020000075323081325
Fd2_2 0 s2 V2 1.0000037661540664
Gr1_2_2 0 s2 x1_a2 0 -15699107970.738321
Gr2_re_2_2 0 s2 x2_re_a2 0 -62861693837.387924
Gr2_im_2_2 0 s2 x2_im_a2 0 -37660752863.43572
Gr3_re_2_2 0 s2 x3_re_a2 0 -0.01333103364948007
Gr3_im_2_2 0 s2 x3_im_a2 0 -0.016050021253415973
Gr4_re_2_2 0 s2 x4_re_a2 0 3.273452051218213
Gr4_im_2_2 0 s2 x4_im_a2 0 1.6408458007135134
Gr5_re_2_2 0 s2 x5_re_a2 0 -0.04659555007094681
Gr5_im_2_2 0 s2 x5_im_a2 0 0.03684686602211748
Gr6_re_2_2 0 s2 x6_re_a2 0 0.046386123695072536
Gr6_im_2_2 0 s2 x6_im_a2 0 0.021573383634529278
Gr7_re_2_2 0 s2 x7_re_a2 0 -0.04556983792118673
Gr7_im_2_2 0 s2 x7_im_a2 0 0.03420227817193915
Gr8_2_2 0 s2 x8_a2 0 -2.2692736085222283
Gr9_re_2_2 0 s2 x9_re_a2 0 -0.18167534134053975
Gr9_im_2_2 0 s2 x9_im_a2 0 -0.32013572809261553
Gr10_re_2_2 0 s2 x10_re_a2 0 -0.15056354336191116
Gr10_im_2_2 0 s2 x10_im_a2 0 0.7972499481836381
Gr11_re_2_2 0 s2 x11_re_a2 0 0.018233786921847264
Gr11_im_2_2 0 s2 x11_im_a2 0 0.017550787876514175
Gr12_re_2_2 0 s2 x12_re_a2 0 -0.009732520618501269
Gr12_im_2_2 0 s2 x12_im_a2 0 0.004670008220341486
Gr13_re_2_2 0 s2 x13_re_a2 0 -0.003895631217021147
Gr13_im_2_2 0 s2 x13_im_a2 0 0.006652147164874318
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.3341731991249194e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.770599375719573e-12
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 137795343668.93695
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -137795343668.93695
Rp2_im_im_a2 0 x2_im_a2 5.770599375719573e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 7.772289797630837e-09
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 55052325156.90757
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -55052325156.90757
Rp3_im_im_a2 0 x3_im_a2 7.772289797630837e-09
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 9.268801308404507e-11
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 39523776319.993904
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -39523776319.993904
Rp4_im_im_a2 0 x4_im_a2 9.268801308404507e-11
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.0032343217724231e-09
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 40486361378.48375
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -40486361378.48375
Rp5_im_im_a2 0 x5_im_a2 1.0032343217724231e-09
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 7.240050990707008e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 30879966336.111847
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -30879966336.111847
Rp6_im_im_a2 0 x6_im_a2 7.240050990707008e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 8.750558819007123e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 23451421898.04836
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -23451421898.04836
Rp7_im_im_a2 0 x7_im_a2 8.750558819007123e-10
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 1.0310656065237525e-10
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 5.346497377430703e-10
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 18101021196.292873
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -18101021196.292873
Rp9_im_im_a2 0 x9_im_a2 5.346497377430703e-10
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 3.3937167245994294e-10
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 17106274336.899117
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -17106274336.899117
Rp10_im_im_a2 0 x10_im_a2 3.3937167245994294e-10
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 2.2028939054594066e-09
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 14169004305.257599
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -14169004305.257599
Rp11_im_im_a2 0 x11_im_a2 2.2028939054594066e-09
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 4.316338513909827e-09
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 9271693652.851505
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -9271693652.851505
Rp12_im_im_a2 0 x12_im_a2 4.316338513909827e-09
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 4.395958063674703e-09
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 11067886736.265192
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -11067886736.265192
Rp13_im_im_a2 0 x13_im_a2 4.395958063674703e-09
.ENDS s_equivalent
