* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.019999992902442896
Fd1_1 0 s1 V1 0.9999996451221448
Gr1_1_1 0 s1 x1_a1 0 -1179562376837135.2
Gr2_re_1_1 0 s1 x2_re_a1 0 855445192887855.2
Gr2_im_1_1 0 s1 x2_im_a1 0 1.0302428208780614e+16
Gr3_re_1_1 0 s1 x3_re_a1 0 1.038128152688585e+18
Gr3_im_1_1 0 s1 x3_im_a1 0 9.802102476622874e+16
Gr4_re_1_1 0 s1 x4_re_a1 0 -3.021067136808351e+18
Gr4_im_1_1 0 s1 x4_im_a1 0 -3.4751288447156064e+17
Gr5_re_1_1 0 s1 x5_re_a1 0 1.9826731797574607e+18
Gr5_im_1_1 0 s1 x5_im_a1 0 -2.939689066267907e+16
Gd1_2 0 s1 p2 0 -1.2830639490809607e-08
Fd1_2 0 s1 V2 -6.415319745404804e-07
Gr1_1_2 0 s1 x1_a2 0 3095356774121.207
Gr2_re_1_2 0 s1 x2_re_a2 0 28215822110169.203
Gr2_im_1_2 0 s1 x2_im_a2 0 3762658384465.8677
Gr3_re_1_2 0 s1 x3_re_a2 0 835303682974124.0
Gr3_im_1_2 0 s1 x3_im_a2 0 -28534628872192.76
Gr4_re_1_2 0 s1 x4_re_a2 0 -2060227548044473.2
Gr4_im_1_2 0 s1 x4_im_a2 0 -228445579812045.3
Gr5_re_1_2 0 s1 x5_re_a2 0 1195160364743156.2
Gr5_im_1_2 0 s1 x5_im_a2 0 -18863766882721.27
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.3341825501772294e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.770599660169629e-12
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 137795664673.9698
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -137795664673.9698
Rp2_im_im_a1 0 x2_im_a1 5.770599660169629e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.1005724157723768e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 61401014197.528496
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -61401014197.528496
Rp3_im_im_a1 0 x3_im_a1 2.1005724157723768e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.1642918892919444e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 35567400200.46027
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -35567400200.46027
Rp4_im_im_a1 0 x4_im_a1 1.1642918892919444e-09
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 6.445586965688575e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 13516049077.004795
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -13516049077.004795
Rp5_im_im_a1 0 x5_im_a1 6.445586965688575e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -1.2830639490809607e-08
Fd2_1 0 s2 V1 -6.415319745404804e-07
Gr1_2_1 0 s2 x1_a1 0 3095361558131.7715
Gr2_re_2_1 0 s2 x2_re_a1 0 28215881741529.83
Gr2_im_2_1 0 s2 x2_im_a1 0 3762679397729.3525
Gr3_re_2_1 0 s2 x3_re_a1 0 835306737019079.9
Gr3_im_2_1 0 s2 x3_im_a1 0 -28534562954842.62
Gr4_re_2_1 0 s2 x4_re_a1 0 -2060235668540877.5
Gr4_im_2_1 0 s2 x4_im_a1 0 -228446496242604.44
Gr5_re_2_1 0 s2 x5_re_a1 0 1195165369171238.8
Gr5_im_2_1 0 s2 x5_im_a1 0 -18863843450826.676
Gd2_2 0 s2 p2 0 0.01999998328983244
Fd2_2 0 s2 V2 0.9999991644916222
Gr1_2_2 0 s2 x1_a2 0 -3877096876072835.5
Gr2_re_2_2 0 s2 x2_re_a2 0 -3.26715723529613e+16
Gr2_im_2_2 0 s2 x2_im_a2 0 -1468841842337127.8
Gr3_re_2_2 0 s2 x3_re_a2 0 -6.765125897703096e+17
Gr3_im_2_2 0 s2 x3_im_a2 0 6.1145012107147336e+16
Gr4_re_2_2 0 s2 x4_re_a2 0 1.5377835181280911e+18
Gr4_im_2_2 0 s2 x4_im_a2 0 1.6697062616032342e+17
Gr5_re_2_2 0 s2 x5_re_a2 0 -8.266608791902405e+17
Gr5_im_2_2 0 s2 x5_im_a2 0 1.3587746786124698e+16
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.3341825501772294e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.770599660169629e-12
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 137795664673.9698
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -137795664673.9698
Rp2_im_im_a2 0 x2_im_a2 5.770599660169629e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.1005724157723768e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 61401014197.528496
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -61401014197.528496
Rp3_im_im_a2 0 x3_im_a2 2.1005724157723768e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.1642918892919444e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 35567400200.46027
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -35567400200.46027
Rp4_im_im_a2 0 x4_im_a2 1.1642918892919444e-09
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 6.445586965688575e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 13516049077.004795
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -13516049077.004795
Rp5_im_im_a2 0 x5_im_a2 6.445586965688575e-10
.ENDS s_equivalent
